US06187774B1
In the same manner as in Example 102 except that 3-(2-(4-chlorophenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 12 and 1-(4-chlorophenyl)piperazine were used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, 2-(4-chlorophenyl)-3-(3-(4-(4-chlorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole was obtained, m.p. 129-131° C.

reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 2-(4-chlorophenyl)-3-(3-(4-(4-chlorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-indazole | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1CCCN1CCN(CC1)C1=CC=C(C=C1)Cl | C26H30Cl2N4
